US06015825
(i) 2-(2-Chlorophenyl)-1-(4-iodophenyl)ethanone
The title compound was prepared from α,2-dichlorotoluene and O,N-dimethyl-4-iodobenzenehydroxamic acid (see Preparation 30) by a similar method to that of Preparation 20(i) as a colourless solid, m.p. 105-106° C., which was characterised by 1H-N.M.R. spectroscopy.

reactant | α,2-dichlorotoluene | ClCC1=C(C=CC=C1)Cl | C7H6Cl2
reactant | O,N-dimethyl-4-iodobenzenehydroxamic acid | CON(C(=O)C1=CC=C(C=C1)I)C | C9H10INO2
product | 2-(2-Chlorophenyl)-1-(4-iodophenyl)ethanone | ClC1=C(C=CC=C1)CC(=O)C1=CC=C(C=C1)I | C14H10ClIO
